US07517873B2
A mixture of 1.6 g (0.0045 mole) of 3-[butyl-(2-chloro-5-nitro-pyrimidin-4-yl)-amino]-propionic acid tert-butyl ester (IV-44) in 50 mL of ethyl acetate and 0.5 g of 5% palladium on carbon catalyst was stirred under an atmosphere of hydrogen until hydrogen uptake was complete. The mixture was filtered through a pad of Celite, washing the filter pad with dichloromethane. Concentration of the filtrate under reduced pressure gave 1.3 g of 3-[(5-amino-2-chloro-pyrimidin-4-yl)-butyl-amino]-propanoic acid tert-butyl ester (V-44). This material was used directly in the next step without further purification.

reactant | 3-[butyl-(2-chloro-5-nitro-pyrimidin-4-yl)-amino]-propionic acid tert-butyl ester | 0.0045 mole, 1.6 g | C(C)(C)(C)OC(CCN(C1=NC(=NC=C1[N+](=O)[O-])Cl)CCCC)=O | C15H23ClN4O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 3-[(5-amino-2-chloro-pyrimidin-4-yl)-butyl-amino]-propanoic acid tert-butyl ester | 1.3 g | C(C)(C)(C)OC(CCN(CCCC)C1=NC(=NC=C1N)Cl)=O | C15H25ClN4O2
